US06140351
To a solution of N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide (0.52 g, 1.1 mmol) in DMF (12 mL) was added sodium thiomethoxide (0.39 g, 5.5 mmol) and the reaction mixture stirred at ambient temperature. After 16 hours, the mixture was poured into water (100 mL) and extracted with ethyl acetate (2×80 mL). The combined organics were washed with water (2×80 mL), 1 M hydrochloric acid (2×80 mL) and brine (80 mL), dried over MgSO4 and concentrated of all volatiles in vacuo. Purification of the resulting solid by flash chromatography on silica gel afforded 0.36 g (68% yield) of N-(4-chlorophenyl)-2-[((3-chloro-4-((methylthio)methyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide; as a pale yellow solid; NMR (DMSO-d6) 11.1 (s, 1), 10.8 (s, 1), 8.3 (d, 1), 7.9 (d, 1), 7.8 (s, 1), 7.7 (d, 2), 7.6 (dd, 1), 7.4 (d, 2), 3.7 (s, 2), 2.0 (s, 3) ppm.

reactant | N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 1.1 mmol, 0.52 g | ClC1=CC=C(C=C1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CCl)=O | C20H14Cl4N2O3S
reactant | sodium thiomethoxide | 5.5 mmol, 0.39 g | C[S-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorophenyl)-2-[((3-chloro-4-((methylthio)methyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.36 g, 68% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CSC)=O | C20H15Cl3N2O2S2
